US04067725
c. 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid
105 g of 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid ethyl ester is refluxed with 550 ml of 1N sodium hydroxide solution for 1 hour. The pH value of the solution is brought to 1.5 with concentrated hydrochloric acid and the solution is filtered. Recrystallisation in ethanol/water yields 58 g of the above acid; m.p. 128°-131°;

reactant | 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid ethyl ester | 105 g | C(C)OC(C(C)OC=1C(=NC(=CC1)Cl)Cl)=O | C10H11Cl2NO3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 550 ml | [OH-].[Na+]
product | 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid | 58 g | ClC1=NC(=CC=C1OC(C(=O)O)C)Cl | C8H7Cl2NO3
